US09029392B2
8-Chloro-2-(6-methoxypyrazin-2-yl)quinoline-3-carbaldehyde
A mixture of 2,8-dichloroquinoline-3-carbaldehyde (0.5 g, 2.21 mmol), 2-methoxy-6-(tributylstannanyl)pyrazine (1.0 g, 2.51 mmol) and tetrakis(triphenyl-phosphine)palladium(0) (0.2 g, 0.173 mmol) in 1,4-dioxane (10 mL) was degassed and heated at 110° C. overnight. The mixture was allowed to cool to room temperature and diluted with EtOAc. The resulting solid was collected by filtration, washed with EtOAc, then ether, and dried to give the title compound (0.42 g, 63%) as a yellow solid. δH(DMSO-d6) 10.58 (s, 1H), 9.24 (s, 1H), 8.93 (s, 1H), 8.53 (s, 1H), 8.27 (dd, J 8.3, 1.2 Hz, 1H), 8.17 (dd, J 7.5, 1.2 Hz, 1H), 7.75 (m, 1H), 3.96 (s, 3H). LCMS (ES+) 300 (M+H)+, RT 1.51 minutes.

reactant | 2,8-dichloroquinoline-3-carbaldehyde | 2.21 mmol, 0.5 g | ClC1=NC2=C(C=CC=C2C=C1C=O)Cl | C10H5Cl2NO
reactant | 2-methoxy-6-(tributylstannanyl)pyrazine | 2.51 mmol, 1.0 g | COC1=NC(=CN=C1)[Sn](CCCC)(CCCC)CCCC
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 8-Chloro-2-(6-methoxypyrazin-2-yl)quinoline-3-carbaldehyde | 0.42 g, 63% | ClC=1C=CC=C2C=C(C(=NC12)C1=NC(=CN=C1)OC)C=O | C15H10ClN3O2
